US07271264B2
Trifluoro-methanesulfonic acid 6-methanesulfonyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester
Suspend trifluoro-methanesulfonic acid 6-hydroxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (12.5 g, 24 mmol) in dry methylene chloride (100 ml). Add diisopropylethylamine (8.3 mL, 48 mmol). Slowly add methanesulfonyl chloride (2.7 mL, 36 mmol). Pour the reaction into saturated aqueous sodium bicarbonate after 20 minutes and extract with methylene chloride. Wash the organic layer with water, dry with sodium sulfate, filter and concentrate in vacuo to yield 14.2 g (99%) of the title compound as an amber foam. 1H NMR (CDCl3) δ8.05 (d, J-=9.2 Hz, 1H), 7.90 (d, J=1.9 Hz, 1H), 7.76 (d, J=8.2 Hz, 2H), 7.75 (d, J=9.0 Hz, 1H), 7.59 (d, J=9.2 Hz, 1H), 7.43 (dd, J=9.2, 1.7 Hz, 1H), 6.94 (d, J=8.2 Hz, 2H), 4.17 (t, J=5.7 Hz, 2H), 3.23 (s, 3H), 2.79 (t, J=5.2 Hz, 2H), 2.5 (bs, 4H), 1.63-1.57 (m, 4H), 1.48-1.40 (m, 2H); LCMS mass spectrum (ion spray): m/z=602.3 (M+H).

reactant | trifluoro-methanesulfonic acid 6-hydroxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 24 mmol, 12.5 g | OC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C25H24F3NO6S
reactant | diisopropylethylamine | 48 mmol, 8.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 36 mmol, 2.7 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 6-methanesulfonyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 14.2 g, 99% | CS(=O)(=O)OC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO8S2
